US07618990B2
A mixture of 4-bromo-5-(chloroacetyl)thiophene-2-carbonitrile (430 mg, 1.6 mmol), prepared in the previous step, and N-(2-hydroxy-1,1-dimethylethyl)thiourea (241.2 mg, 1.6 mmol), prepared in step 2 of Example 52, in 10 mL of absolute ethanol was refluxed under nitrogen for 2.5 h. The solvent was concentrated to approximately two thirds its volume. The solid present was collected by filtration and dried under reduced pressure to give 4-bromo-5-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}thiophene-2-carbonitrile hydrochloride (367.8 mg, 58%) as a yellow solid, mp 177.5-178.5° C.; MS (ESI) m/z 358 [M+H]+.

reactant | 4-bromo-5-(chloroacetyl)thiophene-2-carbonitrile | 1.6 mmol, 430 mg | BrC=1C=C(SC1C(CCl)=O)C#N | C7H3BrClNOS
reactant | N-(2-hydroxy-1,1-dimethylethyl)thiourea | 1.6 mmol, 241.2 mg | OCC(C)(C)NC(=S)N | C5H12N2OS
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-bromo-5-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}thiophene-2-carbonitrile hydrochloride | 367.8 mg, 58% | Cl.BrC=1C=C(SC1C=1N=C(SC1)NC(CO)(C)C)C#N | InChI=1S/C12H12BrN3OS2.ClH/c1-12(2,6-17)16-11-15-9(5-18-11)10-8(13)3-7(4-14)19-10;/h3,5,17H,6H2,1-2H3,(H,15,16);1H
